US09029544B2
(5) (S)—((S)-5-(tert-butyldimethylsilyloxy)-4-(3,6-dihydro-2H-pyran-4-yl)-2-isopropyl-7,7-dimethyl-5,6,7,8-tetrahydroquinolin-3-yl)(3-fluoro-5-(trifluoromethyl)pyridin-2-yl)methanol
Obtained by starting from (S)-5-(tert-butyldimethylsilyloxy)-4-(3,6-dihydro-2H-pyran-4-yl)-2-isopropyl-7,7-dimethyl-5,6,7,8-tetrahydroquinoline-3-carbaldehyde and 2-bromo-3-fluoro-5-(trifluoromethyl)pyridine.

reactant | (S)-5-(tert-butyldimethylsilyloxy)-4-(3,6-dihydro-2H-pyran-4-yl)-2-isopropyl-7,7-dimethyl-5,6,7,8-tetrahydroquinoline-3-carbaldehyde | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C(=C(C(=NC2CC(C1)(C)C)C(C)C)C=O)C=1CCOCC1 | C26H41NO3Si
reactant | 2-bromo-3-fluoro-5-(trifluoromethyl)pyridine | BrC1=NC=C(C=C1F)C(F)(F)F | C6H2BrF4N
product | (S)—((S)-5-(tert-butyldimethylsilyloxy)-4-(3,6-dihydro-2H-pyran-4-yl)-2-isopropyl-7,7-dimethyl-5,6,7,8-tetrahydroquinolin-3-yl)(3-fluoro-5-(trifluoromethyl)pyridin-2-yl)methanol | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C(=C(C(=NC2CC(C1)(C)C)C(C)C)[C@H](O)C1=NC=C(C=C1F)C(F)(F)F)C=1CCOCC1 | C32H44F4N2O3Si
